Circuit to perform Monte Carlo simulation in ngspice
* 25 stage Ring-Osc. using inverters with BSIM3

vin in out dc 0.5 pulse 0.5 0 0.1n 5n 1 1 1
vdd dd 0 dc 3.3
vss ss 0 dc 0
ve  sub  0 dc 0
vpe well 0 dc 3.3

.subckt inv1 dd ss sub well in out
mn1  out in  ss  sub  n1  w=2u l=0.35u as=3p ad=3p ps=4u pd=4u
mp1  out in  dd  well p1  w=4u l=0.35u as=7p ad=7p ps=6u pd=6u
.ends inv1

.subckt inv5 dd ss sub well in out
xinv1 dd ss sub well in 1 inv1
xinv2 dd ss sub well 1  2 inv1
xinv3 dd ss sub well 2  3 inv1
xinv4 dd ss sub well 3  4 inv1
xinv5 dd ss sub well 4 out inv1
.ends inv5

xinv1 dd ss sub well in out5 inv5
xinv2 dd ss sub well out5 out10 inv5
xinv3 dd ss sub well out10 out15 inv5
xinv4 dd ss sub well out15 out20 inv5
xinv5 dd ss sub well out20 out inv5
xinv11 dd 0 sub well out buf inv1
* output is buf
cout  buf ss 0.2pF

.ic v(out20) = 0
*
.options noacct

* The following model parameters are varying statistically:
* vth0, u0, tox
* see the AGAUSS function used to define the parameter
* the deviation is 10%, just for example, not measured

********************************************************************************
.model n1 nmos
+level=8
+version=3.3.0
+tnom=27.0
+nch=2.498e+17  tox=AGAUSS(9e-09, 9e-09, 10)  xj=1.00000e-07
+lint=9.36e-8 wint=1.47e-7
+vth0=AGAUSS(.6322,.6322,10)    k1=.756  k2=-3.83e-2  k3=-2.612
+dvt0=2.812  dvt1=0.462  dvt2=-9.17e-2
+nlx=3.52291e-08  w0=1.163e-6
+k3b=2.233
+vsat=86301.58  ua=6.47e-9  ub=4.23e-18  uc=-4.706281e-11
+rdsw=650  u0=AGAUSS(388.3203,388.3203,10) wr=1
+a0=.3496967 ags=.1    b0=0.546    b1=1
+dwg=-6.0e-09 dwb=-3.56e-09 prwb=-.213
+keta=-3.605872e-02  a1=2.778747e-02  a2=.9
+voff=-6.735529e-02  nfactor=1.139926  cit=1.622527e-04
+cdsc=-2.147181e-05
+cdscb=0  dvt0w=0 dvt1w=0 dvt2w=0
+cdscd=0 prwg=0
+eta0=1.0281729e-02  etab=-5.042203e-03
+dsub=.31871233
+pclm=1.114846  pdiblc1=2.45357e-03  pdiblc2=6.406289e-03
+drout=.31871233  pscbe1=5000000  pscbe2=5e-09 pdiblcb=-.234
+pvag=0 delta=0.01
+wl=0 ww=-1.420242e-09 wwl=0
+wln=0 wwn=.2613948 ll=1.300902e-10
+lw=0 lwl=0 lln=.316394 lwn=0
+kt1=-.3  kt2=-.051
+at=22400
+ute=-1.48
+ua1=3.31e-10  ub1=2.61e-19 uc1=-3.42e-10
+kt1l=0 prt=764.3
+noimod=2
+af=1.075e+00              kf=9.670e-28               ef=1.056e+00
+noia=1.130e+20            noib=7.530e+04             noic=-8.950e-13
**** PMOS ***
.model p1 pmos
+level=8
+version=3.3.0
+tnom=27.0
+nch=3.533024e+17  tox=AGAUSS(9e-09,9e-09,10) xj=1.00000e-07
+lint=6.23e-8 wint=1.22e-7
+vth0=AGAUSS(-.6732829,-.6732829,10) k1=.8362093  k2=-8.606622e-02  k3=1.82
+dvt0=1.903801  dvt1=.5333922  dvt2=-.1862677
+nlx=1.28e-8  w0=2.1e-6
+k3b=-0.24 prwg=-0.001 prwb=-0.323
+vsat=103503.2  ua=1.39995e-09  ub=1.e-19  uc=-2.73e-11
+rdsw=460  u0=AGAUSS(138.7609,138.7609,10)
+a0=.4716551 ags=0.12
+keta=-1.871516e-03  a1=.3417965  a2=0.83
+voff=-.074182  nfactor=1.54389  cit=-1.015667e-03
+cdsc=8.937517e-04
+cdscb=1.45e-4  cdscd=1.04e-4
+dvt0w=0.232 dvt1w=4.5e6 dvt2w=-0.0023
+eta0=6.024776e-02  etab=-4.64593e-03
+dsub=.23222404
+pclm=.989  pdiblc1=2.07418e-02  pdiblc2=1.33813e-3
+drout=.3222404  pscbe1=118000  pscbe2=1e-09
+pvag=0
+kt1=-0.25  kt2=-0.032 prt=64.5
+at=33000
+ute=-1.5
+ua1=4.312e-9 ub1=6.65e-19  uc1=0
+kt1l=0
+noimod=2
+af=9.970e-01              kf=2.080e-29               ef=1.015e+00
+noia=1.480e+18            noib=3.320e+03             noic=1.770e-13
.end

.end
